US04156777
1.79 g (10 mmol) of 1-amino-1-deoxy-β-D-glucopyranose is dissolved in a mixture of 20 ml methanol and 10 ml dioxane, and to this solution is added a mixture of formic acid and citric acid dropwise, with stirring, to adjust the PH of the solution to 9.1. The resulting solution is then added dropwise to a solution prepared by dissolving 3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate in a mixture of 10 ml tetrahydrofuran and 15 ml dioxane, while stirring, at 5°-10° C. over 30 minutes. The resultant mixture is stirred at the same temperature for a further 4 hours, and the thus reacted solution is concentrated at 40° C. and below, under reduced pressure. The crystalline residue obtained is washed with anhydrous ethyl ether and then with acetone, dried under reduced pressure, and recrystallized from anhydrous ethanol-ethyl ether (4:1) to give 2.56 g of 3-(β-D-glucopyranosyl)-1-(2-chloroethyl)-1-nitrosourea. Yield 81.5%. mp 77°-78° C. (decomp.). [α]D25 -10.3° (C 1.0, water). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | 1-amino-1-deoxy-β-D-glucopyranose | 10 mmol, 1.79 g | N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | formic acid | C(=O)O | CH2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-(β-D-glucopyranosyl)-1-(2-chloroethyl)-1-nitrosourea | 2.56 g, Yield 81.5% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(N(N=O)CCCl)=O | C9H16ClN3O7
